US07696195B2
(R)-2-(4-amino-4-methyl-1,4′-bipiperidinyl-1′-yl)-1-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 80 mg (0.15 mmol) (R)-1-carboxy-2-(3,4-dimethyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 58 mg (0.18 mmol) TBTU, 140 μL (1.00 mmol) triethylamine and 59 mg (0.16 mmol) tert.-butyl (4-methyl-[1,4′]bipiperidinyl-4-yl)-carbamate in 1.8 mL DMF were stirred overnight at RT. The reaction mixture was purified by HPLC, the fractions containing the product were combined and lyophilised. The residue obtained was dissolved in 4 mL DCM, combined with 0.5 mL TFA and the reaction solution was stirred for 5 h at RT. The DCM was left to evaporate off overnight, the residue was combined with 2 mL 15% K2CO3 solution and extracted twice with 2 mL DCM. After the solvent had been eliminated the residue was taken up in 1 mL DMF and purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | (R)-1-carboxy-2-(3,4-dimethyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.15 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(N(C(O3)=O)C)C(=C1)C)C(=O)O)C=CC=C2 | C27H30N4O7
reactant | TBTU | 0.18 mmol, 58 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 1.00 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | tert.-butyl (4-methyl-[1,4′]bipiperidinyl-4-yl)-carbamate | 0.16 mmol, 59 mg | CC1(CCN(CC1)C1CCNCC1)NC(OC(C)(C)C)=O | C16H31N3O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-amino-4-methyl-1,4′-bipiperidinyl-1′-yl)-1-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)(C)N)CC1=CC3=C(N(C(O3)=O)C)C(=C1)C)C=CC=C2 | C38H51N7O6
